* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\BIGtest-tran.asc
R1 N004 N003 10
R2 N008 N007 10
R3 N007 N001 10
R4 N004 N005 10
R5 N005 N006 10
R10 N016 0 10
R11 N002 N017 10
R12 N002 N013 10
R13 N013 N017 10
R14 N005 N010 10
R6 N012 N016 10
R7 N014 N016 10
R8 N015 N017 10
R9 N017 N016 10
C4 N008 N012 1
C3 N006 N014 1
C5 N010 N016 1
L1 N006 N009 1
L2 N006 N009 1
L3 N009 N015 1
L4 N008 N012 1
I1 N002 N001 1
V1 N011 0 10
V2 N003 N011 SINE(0 5 10)
.tran 1
.backanno
.end
